US09422242B2
Preparation of 4-amino-3-(dimethylamino)benzonitrile (Intermediate 14a)
To 16 g (84 mmol) of 3-(dimethylamino)-4-nitrobenzonitrile was added 1 g of palladium on carbon (10%, w/w) and 100 mL of methanol. The mixture was saturated with hydrogen and stirred at room temperature overnight. The palladium on carbon was then filtered off. Concentration of the filtration gave 12.8 of a dark-red solid as the desired product. MS ESI (m/z) 162 (M+1)+.

reactant | 3-(dimethylamino)-4-nitrobenzonitrile | 84 mmol, 16 g | CN(C=1C=C(C#N)C=CC1[N+](=O)[O-])C | C9H9N3O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | 4-amino-3-(dimethylamino)benzonitrile | NC1=C(C=C(C#N)C=C1)N(C)C | C9H11N3
